US04542213
To 3,10-bis(beta-aminoethylamino)-6,13-dichloro-4,11-disulphotriphenodioxazine (M.I. 2546; 25 g) in water (400 g) at pH 8.5, was added n-butyl chloroformate (4 g) and the reaction mixture stirred for 11/2 hours at 25°-30°, while keeping the pH at 8.5. Sodium chloride (20 g) was added, the solid isolated by filtration, washed with water and oven dried to give the n-butyl urethane dyestuff (10 g); λmax 618 nm.

reactant | 3,10-bis(beta-aminoethylamino)-6,13-dichloro-4,11-disulphotriphenodioxazine | 25 g | NCCNC=1C=CC=2N=C3C(=C4OC5=C(C(=CC=C5N=C4C(=C3OC2C1S(=O)(=O)O)Cl)NCCN)S(=O)(=O)O)Cl | C22H20Cl2N6O8S2
reactant | n-butyl chloroformate | 4 g | ClC(=O)OCCCC | C5H9ClO2
reactant | Sodium chloride | 20 g | [Cl-].[Na+]
solvent | water | 400 g | O | H2O
product | n-butyl urethane | C(CCC)NC(=O)OCC | C7H15NO2
